US07547691B2
(R)-2-{5-Chloro-2-[2-(2,4-dimethylpiperazin-1-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride
Using the method of 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride, the title compound is synthesized from (R)-2-{5-chloro-2-[2-(2-methyl-piperazin-1-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and isolated as a yellow solid. ES+(m/z) 485 (35Cl) and 487 (37Cl) [M(free base)+H].

reactant | 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride | Cl.Cl.ClC=1C(=NC(=NC1)NCCC1CCN(CC1)C)C1=CC2=C(S1)C=CC=C2C(=O)N
reactant | (R)-2-{5-chloro-2-[2-(2-methyl-piperazin-1-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCN2[C@@H](CNCC2)C | C23H27ClN6OS
product | (R)-2-{5-Chloro-2-[2-(2,4-dimethylpiperazin-1-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride | Cl.Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCN2[C@@H](CN(CC2)C)C | InChI=1S/C24H29ClN6OS.3ClH/c1-15-14-30(2)10-11-31(15)9-8-26-24-27-13-19(25)22(29-24)21-12-18-17(4-3-5-20(18)33-21)23(32)28-16-6-7-16;;;/h3-5,12-13,15-16H,6-11,14H2,1-2H3,(H,28,32)(H,26,27,29);3*1H/t15-;;;/m1.../s1
